US07652041B2
Step 1: Preparation of 3-nitro-5-(trifluoromethyl)phenol
A solution of 3-nitro-5-(trifluoromethyl)phenyl ether (20.0 g, 0.090 mol) in HBr (74.7 mL, 1.38 mmol) and HOAc (279.8 mL, 4.92 mol) was heated at reflux until reaction was judged to be complete by LCMS. The reaction was concentrated to tan solid to yield the desired product (18.7 g, 96% yield). LCMS: (FA) ES− 206.2 (M−1).

reactant | 3-nitro-5-(trifluoromethyl)phenyl ether | 0.090 mol, 20.0 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)OC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C14H6F6N2O5
reactant | HOAc | 4.92 mol, 279.8 mL | CC(=O)O | C2H4O2
catalyst | HBr | 1.38 mmol, 74.7 mL | Br | BrH
product | 3-nitro-5-(trifluoromethyl)phenol | 18.7 g, 96% yield | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)O | C7H4F3NO3
